US03987091
Step 3. Preparation of 1-Chloro-4-acetoxy-8-methylnonane
A mixture of 1-chloro-8-methyl-4-nonanol (22.73 g; 0.118 mole) and acetic anhydride (24.07 g.; 0.236 mole) is heated on a steam bath for 11/2 hours.

reactant | 1-chloro-8-methyl-4-nonanol | 0.118 mole, 22.73 g | ClCCCC(CCCC(C)C)O | C10H21ClO
reactant | acetic anhydride | 0.236 mole, 24.07 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Chloro-4-acetoxy-8-methylnonane | ClCCCC(CCCC(C)C)OC(C)=O | C12H23ClO2
